Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ceftriaxone / vancomycin / meropenem / daptomycin / linezolid
 
Attending: ___
 
Chief Complaint:
acute vs. subacute hypodensity on L frontal lobe. 

 
Major Surgical or Invasive Procedure:
Right hip washout ___
PICC placed ___

 
History of Present Illness:
___ with IVDU, multiple antibiotic allergies, strep MV 
endocarditis x2, hx splenic and renal infarcts, and embolic 
stroke, now transferred from ___ with acute vs. subacute 
hypodensity on L frontal lobe. 

Her last IVDU was 2 days ago, when she injected heroin ___ R 
hand. She presented to ___ with 2 days of LUE arm pain 
and weakness and bilateral leg weakness, and ___ headache. She 
also endorsed CP, SOB, nausea, vomiting, decreased appetite. 

Labs at ___ were notable for:
Na 129, K 3.1, Cl 101, CO2 20, BUN 15, Cr 0.97, Glu 103
3.6 > 9.0 / 27.6 < 101

OSH CT Head: 
___ left frontal lobe, there are new areas of hypodensity which 
extend to the cortex and suggestive of an acute to subacute 
infarct. These findings are associated with tiny foci of 
hyperdensity which are suggestive of hemorrhage. There is an old 
infarct with encephalomalacia ___ the R frontoparietal region. 
There is no signficiant mass effect or shift of normally midline 
structures. The ventricles and sulci are whitin normal limits 
for size. There are no depressed skull fractures. The visualized 
paransal sinuses have no air fluid levels.

She received PO potassium 40meq, aspirin 81mg, and IV clinda 
600mg and was transferred to ___.

___ the ED, initial vitals were: 99.4 ___ 14 98% RA 
She was hypotensive to ___ and received 3L NS.

Labs notable for:
WBC 2.6, Hgb 8.1, Plt 60 INR 1.4 Lactate 1.6
Serum and urine tox were unremarkable.
No large vegetations were seen on bedside echo.

She received 4mg IV morphine.

She was seen by hand surgery who recommended:
- Admission to MICU, hand films, supportive care with elevation 
and warm compresses RUE and avoiding IVs ___ RUE. 

Neurology was consulted and found pain limited weakness ___ her 
LUE>RUE and RLE>LLE ___ an apparent UMN pattern. Differential 
includes septic emboli vs ischemic stroke vs abscess/infection. 
Recommended MRI brain and MRI whole spine w/wo contrast to r/o 
septic emboli to the brain and the spine, CTA head/neck for 
?mycotic aneurysm, TTE, and avoiding ASA due to bleed risk.

On arrival to the MICU, she complains of chest pain, headache, 
right entire leg pain, right hand pain, left proximal arm pain.
 
Review of systems:  
(+) Per HPI. Has had occasional leaking of urine for weeks to 
months. No accidents of stool. 
(-) Denies shortness of breath, or wheezing. 
 

 
Past Medical History:
IVDU 
MV endocarditis with Strep viridans
Septic emboli to brain, spleen, and kidney 
R arm abscess
Hepatitis C
 
Social History:
___
Family History:
Mother with T2DM, grandmother and great grandmother with 
endocarditis, grandfather with CAD  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
Vitals: T: 97.8 BP: 89/67 P: 110 R: 18 O2: 96 RA 
GENERAL: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: ___ SEM over apex, soft S3
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No knee effusions noted. 
SKIN:  ___ nodes, ___ lesions, splinter hemorrhages. 
Edema and tenderness over right ___ finger.
NEURO:  A/O x3. Markedly decreased R hip flexion due to pain. CN 
II-XII intact.

DISCHARGE PHYSICAL EXAM: 
===========================
Vitals: 98.0PO 128 / 77 70 18 95 Ra       
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM
Neck: No JVD
Lungs: CTAB, no respiratory distress 
CV: RRR, ___ blowing, pansystolic murmur over apex without 
thrill
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  R PICC site c/d/I w/o overlying skin changes, no rashes
Neuro: AAOx3. CN2-12 intact. Motor ___ RLE and throughout.
 
Pertinent Results:
LABS ON ADMISSION: 
====================
___ 11:11PM   LACTATE-1.6
___ 07:48PM   GLUCOSE-94 UREA N-20 CREAT-1.1 SODIUM-131* 
POTASSIUM-3.5 CHLORIDE-99 TOTAL CO2-17* ANION GAP-19
___ 07:48PM   ALT(SGPT)-18 AST(SGOT)-24 ALK PHOS-63 TOT 
BILI-0.7
___ 07:48PM   LIPASE-14
___ 07:48PM   ALBUMIN-3.0*
___ 07:48PM   CRP-215.2*
___ 07:48PM   ASA-NEG ETHANOL-NEG ACETMNPHN-9* bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 07:48PM   WBC-2.6*# RBC-3.23* HGB-8.1* HCT-25.1*# 
MCV-78* MCH-25.1* MCHC-32.3 RDW-16.9* RDWSD-48.1*
___ 07:48PM   NEUTS-68 BANDS-3 ___ MONOS-10 EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-1.85 AbsLymp-0.49* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.00*
___ 07:48PM   HYPOCHROM-2+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-2+ POLYCHROM-NORMAL OVALOCYT-OCCASIONAL 
BURR-1+ PENCIL-OCCASIONAL
___ 07:48PM   PLT SMR-VERY LOW PLT COUNT-60*#
___ 07:48PM   ___ PTT-26.2 ___
___ 07:15PM URINE  UCG-NEGATIVE
___ 07:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:15PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 07:15PM URINE  MUCOUS-RARE

PERTIENT LABS: 
===============
___ 12:37PM JOINT FLUID ___ RBC-1556* Polys-79* 
___ ___ 07:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-9* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:48PM BLOOD CRP-215.2*

MICRO: 
===========
___ 12:37 pm JOINT FLUID      Source: RT Hip. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Preliminary): 
      Reported to and read back by ___ @ 12:25 ___ ON 
___. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 

___ 7:20 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 0114 ON 
___ - ___. 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

___ 8:50 am JOINT FLUID      RIGHT HIP JOINT FLUID. 
      MYCOLOGY CULTURE ADDED PER ADD ON REQ AT 1708 ON ___. 


   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      Reported to and read back by ___ (___) AT 
___ ON
      ___. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___ 
. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ 8:50 am SWAB      RIGHT HIP JOINT FLUID. 
      Fluid should not be sent ___ swab transport media.  Submit 
fluids ___ a
      capped syringe (no needle), red top tube, or sterile cup. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___.

IMAGING STUDIES: 
================
___ SPLENIC ULTRASOUND
1. Massive splenomegaly.
2. 3.4 cm area located inferiorly of scarring and atrophy likely 
related to
prior splenic infarct.  Stable fluid collection within the 
superior aspect of the spleen is stable when compared to CT from 
___.
3. New 2.0 cm complex fluid collection within the inferior 
spleen.  Abscess
cannot be excluded on the basis of exam.

CTA ___
1. No evidence of pulmonary embolism.
2. There is basilar atelectasis.  Areas of ground-glass opacity 
at both lung bases may be related to atelectasis and dependent 
edema.  However,
superimposed pneumonia should be excluded clinically.  There are 
no pulmonary septic emboli.
3. Prominent mediastinal and right hilar lymph nodes may be 
reactive.
4. Hypodensity ___ the superior aspect of the spleen which was 
not clearly seen on prior exams.  This may represent a new area 
of splenic infarct or
development of cystic lesion including an abscess.
5. Left PICC line tip is coiled within right brachiocephalic 
vein. 

___: EEG
IMPRESSION: This is an abnormal continuous ICU monitoring study 
because of
intermittent independent focal slowing ___ the temporal regions 
(R>L) and
central region during wakefulness, indicative of multiple areas 
of subcortical dysfunction. There are no electrographic seizures 
or epileptiform discharges. There are no pushbutton activations.
 

___: CT HEAD W/O CONTRAST: 1. There has been no interval 
change.  There are stable subacute left frontal lobe, and 
chronic right inferior parietal lobe infarcts.  There is no 
hemorrhage.

___ TRANS-ESOPHAGEAL ECHO: No spontaneous echo contrast 
or thrombus is seen ___ the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Overall left ventricular systolic function is normal 
(LVEF>55%). [Intrinsic function may be depressed given the 
severity of mitral regurgitation.] Rthere is mild global right 
ventricular free wall hypokinesis. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion. No 
masses or vegetations are seen on the aortic valve. No aortic 
regurgitation is seen. There is small (0.6cm) mobile echodensity 
on the posterior annulus involving the P1 scallop (clip 16) 
measuring and most consistent with a vegetation/endocarditis. No 
mitral valve abscess is seen. The posterior leaflet appears to 
be perforated at the location of the vegetation with an 
eccentric jet of moderate to severe (3+) mitral regurgitation. 
There is no pericardial effusion. 

IMPRESSION: Small, mobile likely vegetation on the posterior 
leaflet of the mitral valve involving the P1 scallop with 
moderate to severe mitral regurgitation. Right ventricular free 
wall hypokinesis.  

___ CHEST X-RAY: Comparison to ___.  The 
patient has received a left-sided PICC line.  The tip of the 
line projects over the cavoatrial junction.  No complications, 
notably no pneumothorax.  The pre-existing bilateral parenchymal 
opacities and the size of the cardiac silhouette are stable.

___ MRI HEAD W/ AND W/O CONTRAST: 1. No change compared 
to the prior examination of ___.  No new infarction 
or recent hemorrhage.
2. Evolving multifocal subacute infarcts ___ the left ACA and MCA 
distribution, consistent with an embolic etiology.  Septic 
emboli versus bland emboli cannot be distinguished as bland 
subacute infarcts can show enhancement.  There is no evidence of 
an abscess.
3. Chronic right parietal temporal infarct.
4. Numerous is scattered supra and infratentorial punctate micro 
hemorrhages, corresponding to prior septic emboli.

___ MRI CERVICAL THORACIC AND LUMBAR SPINE: 1. The study 
is limited by motion artifact and lack of axial and postcontrast 
sequences.  Within these confines, there is no gross evidence of 
discitis-osteomyelitis or cord compression.
2. Known hepatosplenomegaly and small bilateral pleural 
effusions and
pulmonary parenchymal abnormalities are not adequately evaluated 
on this
study.
3. The scout images are notable for free fluid ___ the pelvis 
surrounding the uterus and the ovaries which may be physiologic, 
but is incompletely
evaluated. 

___ MRI HEAD W/O CONTRAST: 1. Multifocal late acute/early 
subacute infarcts ___ the left ACA and MCA distributions are 
likely embolic ___ etiology.  There is no evidence of an abscess. 
 Bland versus septic emboli cannot be distinguished.
2. Chronic right parietotemporal infarct.
3. Numerous scattered supra and infratentorial punctate micro 
hemorrhages
likely corresponding to prior septic emboli.

___ CT UE 
1. No discrete fluid collection detected ___ the region of the 
first web space of the right hand.  Subtle hypoattenuation of 
the thenar eminence could be artifactual, less likely edema or 
fluid collection.  If clinical suspicion for muscle edema or 
fluid collection remains high, then ultrasound may be more 
sensitive for detection of a small fluid collection. 
2. Tortuous distended vessels ___ the left upper quadrant could 
reflect early varices. 
3. Persistent mildly enlarged para-aortic and aortocaval lymph 
nodes ___ the upper abdomen are nonspecific but may be reactive. 
HIV could be considered however, HIV serology of ___ 
was negative. 

___ HIP (UNILAT 2 VIEW) W/PELVIS (1 VIEW) RIGHT 
No previous images.  The bony structures and joint spaces are 
essentially 
within normal limits and symmetric bilaterally.  Rounded 
opacifications 
projected over the right ilium and changing between various 
images are 
consistent with opaque tablets ___ the gastrointestinal tract. 
  
___ Joint Aspiration 
1.  Imaging Findings - as above. 
2.  Procedure - Uneventful fluoroscopic-guided aspiration of 5 
cc of yellowish  cloudy right hip joint fluid.  Samples were 
sent for microbiology, cell count, and differential. 

___ CTA HEAD W&W/O C & RECONS
1. Chronic occlusion of  a posterior M3 branch of the right 
middle cerebral artery is redemonstrated with chronic infarct ___ 
the right frontoparietal lobe. 
2. Hypodensity ___ the left frontal lobe is new when compared to 
prior MRI from ___ and is suggestive of an subacute 
infarct.  MRI of the brain is recommended to exclude 
superimposed infection. 
3. Partially visualized lung apices shows interlobular septal 
thickening that is likely related to fluid overload. 
4. 3 mm thyroid gland nodule does not require further follow-up 
according to ACR guidelines. 

___ HAND (PA,LAT & OBLIQUE) RIGHT
No fracture or dislocation are seen.  There are no significant 
degenerative changes.  No bone erosion or periostitis 
identified. No suspicious lytic or sclerotic lesion is 
identified. No soft tissue calcification or radio-opaque foreign 
bodies are detected. 

 
Brief Hospital Course:
___ with IVDU, multiple antibiotic allergies, strep MV 
endocarditis x2, hx splenic and renal infarcts, and embolic 
stroke transferred from ___ with acute vs. subacute 
hypodensity on L frontal lobe. Initially transferred to the ICU 
given sepsis and fluid responsive hypotension. Patient received 
broad spectrum antibiotics (zosyn then ceftaroline) until MSSA 
was identified on cultures and antibiotics were narrowed to 
nafcillin. Additionally she was found to have septic arthritis 
of her hip, MSSA by culture s/p washout by orthopedics ___. 
TEE ___ showed mitral valve endocarditis. Cardiac surgery 
consulted who recommended no intervention until completion of ___bx (projected end date ___ and then follow 
up TEE ___ ___ months to follow MR as an outpatient. She 
completed a 6 week course of daptomycin. She was discharged on 
methadone maintenance regimen of 70 mg daily.

# Endocarditis with concern for septic emboli 
# Viridans streptococci, blood culture: ___ BCx. GPC ___ ___, 
___ BCx: TEE ___ w/ Small, mobile likely vegetation on the 
posterior leaflet of the mitral valve involving the P1 scallop 
with moderate to severe mitral regurgitation. Right ventricular 
free wall hypokinesis. Cardiac surgery consulted who recommended 
no intervention until completion of ___bx (projected 
end date ___ and then follow up TEE ___ ___ months to 
follow MR as an outpatient. She completed a 6 week course of 
daptomycin. 

# Opiate Use Disorder: She was discharged on methadone 
maintenance regimen of 70 mg daily. 
Habit Opco ___: ___
___: ___
Clinic hours: 6 a.m. - 10:30 a.m. ___ thru ___
                        6 a.m. - 9 a.m. ___ and ___

# Septic Joint
History of streptococcus viridans mitral valve infective 
endocarditis. Had been evaluated for surgical repair after 
initial dx prior to relapse ___ ___. No known history of MRSA 
though at high risk for MRSA. She received Zosyn and clindamycin 
600mg at OSH. Hip effusion s/p ___ tap on ___, now growing 
Staph coag+ ___ hip fluid Cx, appears to be MSSA. ID consulted. 
c/f renewed septic emboli ___ UE, spine, hip, brain, lungs. S/p 
Zosyn ___ then ceftaroline (___) followed by 
nafcillin s/p graded challenge (___) and now 
daptomycin ___

# L frontal lobe hypodensity: Likely acute/subacute stroke from 
septic emboli. MRI showed infarcts ___ the left ACA and MCA 
terriortory consistent with right sided motor weakness. Followed 
by neurology during hospitalization. Aspirin and systemic 
anticoagulation was avoided during hospital course due to risk 
of hemorrhagic conversion. Will follow-up with stroke neurology 
as outpatient. 

# Seizure
Patient had episode of right gaze deviation and end beat 
nystagmus concerning for focal, partial seizure. NCHCT stable. 
24H vEEG with no epileptiform discharges, but given nature of 
episode and known infarcts, patient started on keppra.  
Neurology recommend follow-up with stroke neurologist ___ ___ mo 
w/ possible dc keppra at that time.

# Septic right hip: required washout by orthopedic team on 
___. Cultures grew MSSA. Treated with Nafcillin then 
daptomycin (coinciding course for endocarditis). Continued on 
acetaminophen and gabapentin for pain. 

#Depression NOS: had previously been on wellbutrin however given 
possible seizure initiated sertraline which was titrated up to 
150 mg daily. 

# Insomnia: Discharged with PRN trazadone 50 mg. Qtc ok.

# Pancytopenia: Secondary to systemic infection and 
splenomegaly. HIV, hepatitis and CMV, EBV were checked as well. 
HIV VL neg, HCV VL neg, CMV neg, EBV VL High. ID did not 
recommend management changes. Patient's WBC and plt normalized 
during hospitalization, however she had intermittent near 
neutropenia which should be followed as an outpatient due to 
multiple medications with BM suppressive side effects.

# Iron Deficiency Anemia: Anemia initially with high ferritin ___ 
setting of acute infection. Ferritin repeat 24 near end of 
course of abx. She was started on daily iron supplementation. 
Iron studies and CBC should be repeated ___ months as an 
outpatient. 

# Lice: noticed ___ hair by mother on ___, confirmed by nursing 
staff. permethrin cream 5% x1 on ___, applied to hair and left 
for 10 min, then washed out, then combed hair thoroughly. This 
was repeated one week later with cure achieved.

# Splenic mass
New splenic mass seen on abd u/s and could not r/o abscess. No 
septic signs. no abd pain. consulted surgery who rec 
conservative management for now given patient's clinical 
improvement with IV nafcillin. If she develops new abdominal 
symptoms than ultrasound should be repeated. CT scan later ___ 
hospitalization showed resolution.

TRANSITIONAL ISSUES: 
===================
[] Patient ferritin low at 24, started on PO iron. Will recheck 
Iron studies and CBC ___ ___ Months. 
[] cardiac sx -no need for valve replacement at this time - if 
septic emboli become an issue or if she becomes symptomatic from 
MR surgery may be warranted. TEE ___ ___ months to follow MR.
[] Patient started on Keppra for new seizure, consider taking 
off after 6 months
[] She should not drive for six months since last seizure (i.e., 
until at least ___.
[] Patient had a splenic fluid collection on imaging which 
resolved. If abdominal pain would get ultrasound of spleen to 
rule out abscess
[] Patient had leukopenia/ mild neutropenia that was uptrending 
at discharge. Likely medication related, would follow CBC w/ 
diff ___ ___ weeks as an outpatient.
[] Patient started on methadone maintenance at 70 mg liquid a 
day. Last dose 824 AM ___. Qtc's have been non-elevated. 
Continue to follow EKG Qtc's intermittently as an outpatient. Be 
cautious with adding additional Qtc Prolonging medications.

OTHER TRANSITIONAL ISSUES:
==============================
- H/O MDR ___ meningoseptica bacteremia 
- hand pain that resolved: their was initial concern for abscess 
at injection sight, but pain resolved with antibiotics
-Given the likelihood that patient has cheeked, crushed and 
injected pain medications while inpatient, patient should only 
be given liquid oxycodone for PO pain control and she should be 
observed during each administration.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth Daily:PRN Disp #*30 
Tablet Refills:*3 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*3 
4.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
5.  Gabapentin 600 mg PO QID 
RX *gabapentin 600 mg 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*3 
6.  LevETIRAcetam 500 mg PO Q12H 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
7.  Methadone (Concentrated Oral Solution) 10 mg/1 mL 70 mg PO 
DAILY  
8.  Narcan (naloxone) 4 mg/actuation nasal ONCE:PRN overdose 
RX *naloxone [Narcan] 4 mg/actuation 1 spay Daily;PRN Disp #*3 
Spray Refills:*0 
9.  Senna 8.6 mg PO BID:PRN Constipation 
RX *sennosides [senna] 8.6 mg 1 by mouth BID:PRN Disp #*60 
Tablet Refills:*3 
10.  Sertraline 150 mg PO DAILY 
RX *sertraline 50 mg 3 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*3 
11.  TraZODone 50 mg PO QHS:PRN Insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth QHS:PRN Disp #*30 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Infective Endocarditis
Septic Joint, Right Hip
Splenic abscess
Seizure

SECONDARY DIAGNOSES
CVA
Opioid Use Disorder
Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were transferred to ___ for management of weakness ___ the 
setting of opioid withdrawal. You were found to have brain 
lesions likely due to your endocarditis, an infection on one of 
your heart valves. We were concerned that there was a fluid 
around your right hip -- we tapped the joint and found an 
infection. You went for a joint washout surgery with the 
surgeons. We started you on IV antibiotics for your infection. 
Our neurologists saw you and recommended starting a seizure 
prevention medication--Keppra to take for ___ months until your 
Neurology follow up appointment. Our infectious disease doctors 
saw ___ and recommended continuing the antibiotics for at least 
6 weeks.

Our Cardiac surgeons evaluated you and determined that you have 
no acute need for valve replacement surgery. You should have 
repeat imaging ___ ___ months from discharge. 

___ DC Info:
-On ___, please arrive at our ___ clinic 
between
6 a.m. - 10:30 a.m. for dosing. 
-On ___ and ___, please arrive at
___ clinic between  6 a.m. - 9 a.m. for dosing.
-On ___, ___, you will meet with a medical doctor on 
___
at 12:30 p.m. and you can receive your dose after appointment. 

Contact Info: 
Habit Opco (___)
Address: ___
___ Fax: ___
Clinic hours: 6 a.m. - 10:30 a.m. ___ thru ___
                        6 a.m. - 9 a.m. ___ and ___

It was a pleasure taking care of you!
-Your ___ team
 
Followup Instructions:
___